US09085583B2
To a solution of 2-methyl-1-(1-phenylethyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid (400 mg, 1.43 mmol) in dichloromethane (30 mL) were added 1-hydroxybenzotriazole (291 mg, 2.15 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (412 mg, 2.15 mmol) and triethylamine (434 mg, 4.30 mmol). The resultant mixture was stirred at room temperature for 30 minutes. Then 3-(aminomethyl)-4,6-dimethylpyridin-2-ol (262 mg, 1.72 mmol) was added and the resultant mixture was stirred at room temperature for 16 hours. Water (50 mL) was added to the mixture. The mixture was extracted with dichloromethane (100 mL×2). The organic layer was concentrated in vacuo to provide crude product which was purified by column chromatography (silica gel, dichloromethane/methanol=20:1) to afford N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-2-methyl-1-(1-phenylethyl)-1H-pyrrolo-[2,3-b]pyridine-3-carboxamide (400 mg, 67.6%) as a white solid. LRMS (M+H+) m/z: calcd 414.21. found 414. HPLC purity (214 nm): 94%. 1H NMR (300 MHz, CD3OD): δ 8.22-8.13 (m, 2H), 7.28-7.15 (m, 6H), 6.47-6.45 (m, 1H), 6.09 (s, 1H), 4.50 (s, 2H), 2.42 (s, 3H), 2.39 (s, 3H), 2.23 (s, 3H), 2.02 (d, J=7.2 Hz, 3H).

reactant | 2-methyl-1-(1-phenylethyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | 1.43 mmol, 400 mg | CC1=C(C=2C(=NC=CC2)N1C(C)C1=CC=CC=C1)C(=O)O | C17H16N2O2
reactant | 1-hydroxybenzotriazole | 2.15 mmol, 291 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.15 mmol, 412 mg | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 4.30 mmol, 434 mg | C(C)N(CC)CC | C6H15N
reactant | 3-(aminomethyl)-4,6-dimethylpyridin-2-ol | 1.72 mmol, 262 mg | NCC=1C(=NC(=CC1C)C)O | C8H12N2O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | Water | 50 mL | O | H2O
product | N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-2-methyl-1-(1-phenylethyl)-1H-pyrrolo-[2,3-b]pyridine-3-carboxamide | 400 mg, 67.6% | OC1=NC(=CC(=C1CNC(=O)C1=C(N(C2=NC=CC=C21)C(C)C2=CC=CC=C2)C)C)C | C25H26N4O2
